US06348485B1
2,3-Dihydrobenzofuran-5-carbaldehyde
To a solution of 2,3-dihydrobenzofuran (100.0 g, 832 mmols) in N,N-dimethylformamide (134.0 g, 1.83 mols) was added dropwise phosphorus oxychloride (255.1 g, 1.66 mols), then the mixture was stirred at 80-90° C. for 7.5 hours. The mixture was cooled to room temperature, poured into water (1 L) and stirred for 15 hours. The product was extracted with toluene (1.5 L). The extract was washed with water (500 mL) followed by a saturated aqueous solution of sodium bicarbonate (500 mL) and concentrated under reduced pressure to obtain 115.9 g (yield: 94%) of the title compound.

reactant | 2,3-dihydrobenzofuran | 832 mmols, 100.0 g | O1CCC2=C1C=CC=C2 | C8H8O
reactant | N,N-dimethylformamide | 1.83 mols, 134.0 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 1.66 mols, 255.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 1 L | O | H2O
product | 2,3-Dihydrobenzofuran-5-carbaldehyde | 115.9 g, yield: 94% | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
